US04282242
Imidazo[3,4-a]pyridine (8.3 g., 70 mmoles) dissolved in 125 ml. of ether was mixed with p-chlorophenacyl bromide (16.3 g., 70 mmoles) dissolved in 50 ml. of tetrahydrofuran and stirred at room temperature for 10 minutes at which time a gummy precipitate (approximately 2 g.) was separated by decantation. The decant was stirred for an additional 22 hours at room temperature, by which time product had precipitated heavily. Filtration with ether wash gave 2-(4-chlorobenzoylmethyl)imidazo[3,4-a]pyridinium bromide (16.8 g., m.p. 241°-243° C.).

reactant | Imidazo[3,4-a]pyridine | 70 mmoles, 8.3 g | C=1N=CN2C1C=CC=C2 | C7H6N2
reactant | ether | CCOCC | C4H10O
reactant | p-chlorophenacyl bromide | 70 mmoles, 16.3 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(4-chlorobenzoylmethyl)imidazo[3,4-a]pyridinium bromide | 16.8 g | [Br-].ClC1=CC=C(C(=O)C[N+]2=CN3C(C=CC=C3)=C2)C=C1 | InChI=1S/C15H12ClN2O.BrH/c16-13-6-4-12(5-7-13)15(19)10-17-9-14-3-1-2-8-18(14)11-17;/h1-9,11H,10H2;1H/q+1;/p-1
